US08629157B2
Step 2: Synthesis of (S)-1-(4-nitro-phenyl)-5-oxo-pyrrolidine-2-carboxylic acid tert-butyl ester
To a stirred solution of (S)-5-oxo-pyrrolidine-2-carboxylic acid tert-butyl ester (1.85 g, 10 mmol) in dimethylsulfoxide (10 mL) at room temperature, sodium hydride (440 mg of 60% dispersion in mineral oil, 11 mmol) is added in portions over a period of 20 min. After 30 min, 4-fluoronitrobenzene (1.06 mL, 10 mmol) is added and the mixture is heated by placing in an oil-bath maintained at 80° C. for 4 h. The reaction mixture is allowed to cool to room temperature, treated with saturated ammonium chloride solution (150 mL) and extracted with ethyl acetate (250 mL). Organic extracts are combined, washed with brine (100 mL), dried over anhydrous Na2SO4 and solvent removed in vacuo. The crude is purified chromatography over silica gel eluting with hexanes/ethyl acetate and the title compound is obtained as a light yellow solid, ESI m/z 307 [M+H]+.

reactant | (S)-5-oxo-pyrrolidine-2-carboxylic acid tert-butyl ester | 10 mmol, 1.85 g | C(C)(C)(C)OC(=O)[C@H]1NC(CC1)=O | C9H15NO3
reactant | sodium hydride | 11 mmol, 440 mg | [H-].[Na+]
reactant | 4-fluoronitrobenzene | 10 mmol, 1.06 mL | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | ammonium chloride | 150 mL | [Cl-].[NH4+]
solvent | dimethylsulfoxide | 10 mL | CS(=O)C | C2H6OS
product | (S)-1-(4-nitro-phenyl)-5-oxo-pyrrolidine-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)[C@H]1N(C(CC1)=O)C1=CC=C(C=C1)[N+](=O)[O-] | C15H18N2O5
